US07244744B2
Excess 3-Trifluoromethyl-benzenesulfonyl chloride and polystyrene-diisopropylethylamine resin (ca. 40 mg) were added to a 50 mM solution of 4-(2-keto-1-benzimidazolinyl)piperidine in methylene chloride-dimethyl formamide (9:1) (1 mL). The mixture was shaken 18 hours then scavenged with polystyrene-trisamine resin (ca. 33 mg) for another 18 hours. The reaction was filtered and evaporated to give 1-[1-(3-Trifluoromethyl-benzenesulfonyl)-piperidin-4-yl]-1,3-dihydro-benzoimidazol-2-one (18.6 mg, 87%).

reactant | 3-Trifluoromethyl-benzenesulfonyl chloride | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
solvent | methylene chloride dimethyl formamide | 1 mL | C(Cl)Cl.CN(C=O)C
product | 1-[1-(3-Trifluoromethyl-benzenesulfonyl)-piperidin-4-yl]-1,3-dihydro-benzoimidazol-2-one | 18.6 mg, 87% | FC(C=1C=C(C=CC1)S(=O)(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)(F)F | C19H18F3N3O3S
